Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
Right ear pain and drainage
 
Major Surgical or Invasive Procedure:
ENT fiberoptic scope
Cleaning of right external ear canal and wick placement

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a past medical history of 
Type 2 Diabetes Mellitus (insulin-controlled), hypertension, 
GERD, depression, and tongue cancer, who presented with 1 day of 
ear pain and serosanguinous drainage and subjective 
fevers/chills following URI. According to her family, her BP had 
been somewhat elevated and she had missed some medication doses, 
her blood sugars at home had been in the 300s, and she had been 
incontinent of urine.

In the ED initial vitals were: 97.6 96 121/65 16 94%. Labs were 
significant for leukocytosis, normal bicarb, elevated creatinine 
(baseline 1.4), elevated glucose, and UA concerning for UTI. CXR 
was normal and ear drainage was sent for cultures. She received 
insulin and IV cefepime was administered to cover pseudomonas. 
She was started on ciproflaxacin and dexamethasone drops for 
otitis externa. ESR was elevated raising concern for for 
malignant otitis externa.  She was admitted to the floor for 
further workup of otitis, blood sugar and UTI management.

On admission to the floor, patient remained afebrile with stable 
vitals. She noted very mild right ear pain but denied chest 
pain, shortness of breath, abdominal pain, nausea, vomiting, 
diarrhea, dysuria or increased urinary frequency. ROS was 
otherwise negative.
 
Past Medical History:
DM2, HTN, Hyperlipidemia, Depression, Anxiety, Iron Deficiency 
Anemia, GERD, Chronic Back Pain, Insomnia.

Tongue cancer, sees specialist at ___, chronic anemia (per pt 
she has had since she was a little girl, h/o stomach ulcers 
years ago.

 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer
 
Physical Exam:
ON ADMISSION:

Vitals - T: 98.3 BP: 173/74 to 162/64 HR: 100 RR: 22 02 sat: 
95%RA  
GENERAL: Well and comfortable appearing woman lying in bed in 
NAD  
HEENT: AT/NC, EOMI, PERRL, MMM. No tenderness, swelling, 
erythema, or rash over R mastoid. Ruptured R TM with small 
amount of serous fluid present in auditory canal, minimal 
erythema. L TM intact, nonbulging, no erythema.  
NECK: no LAD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, AAOx3, motor and sensory exam grossly 
intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

ON DISCHARGE:

PE: 97.7 131/53 ___ 18 100% on RA
Gen: Alert and responsive, NAD sitting up on bed
Chest: Sparse crackles at lung bases, no rhonchi or wheezes
CV: RRR, no murmurs, rubs, and gallops
HEENT: R ear clean, no active drainage, wick removed
 
Pertinent Results:
ON ADMISSION:

___ 08:45PM   WBC-16.7*# RBC-4.37 HGB-14.3 HCT-44.1 
MCV-101* MCH-32.8* MCHC-32.5 RDW-12.3
___ 08:45PM   NEUTS-86* BANDS-1 LYMPHS-4* MONOS-9 EOS-0 
BASOS-0 ___ MYELOS-0 NUC RBCS-1*
___ 08:45PM   PLT COUNT-357
___ 08:45PM   SED RATE-65*
___ 10:05PM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 10:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-1000 KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 10:05PM URINE  RBC-1 WBC->182* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 10:05PM URINE  MUCOUS-RARE
___ 09:25PM   ___ PO2-36* PCO2-51* PH-7.40 TOTAL 
CO2-33* BASE XS-4
___ 08:55PM   LACTATE-2.0
___ 08:45PM   GLUCOSE-529* UREA N-23* CREAT-1.6* 
SODIUM-132* POTASSIUM-5.0 CHLORIDE-89* TOTAL CO2-29 ANION GAP-19

MICRO:

___ 10:05 pm URINE
                
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     8 S
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Time Taken 
   WOUND CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP A.    HEAVY GROWTH. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    SPARSE GROWTH. 

ON DISCHARGE:

___ 04:55AM BLOOD WBC-9.9 RBC-3.93* Hgb-12.8 Hct-39.4 
MCV-100* MCH-32.6* MCHC-32.5 RDW-12.4 Plt ___
___ 04:55AM BLOOD Glucose-91 UreaN-20 Creat-1.1 Na-141 
K-3.5 Cl-102 HCO3-27 AnGap-16
___ 04:55AM BLOOD Calcium-8.7 Phos-2.6* Mg-1.8

REPORTS:

CT TEMPORAL BONE ___. Soft tissue density in the right external auditory canal and 
middle ear with inflammatory changes extending into the soft 
tissues, findings are concerning for malignant otitis externa, 
recommend skullbase MRI for further assessment. No bony 
destruction identified. 
2. Asymmetric fullness of the ___ fossa on the right, 
new from 
___, could be secondary to inflammation in this region 
however, 
underlying mass is a concern, recommend direct visualization. 
This finding can also be assessed on a contrast enhanced 
skullbase MRI. 

 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with Type II Diabetes Mellitus, 
hypertension, GERD, depression and tongue cancer who was 
admitted with right ear pain.

ACUTE MEDICAL ISSUES:
#Otitis externa: Pt presented with one day of ear pain and 
serosanguineous drainage. Given recent history of poorly 
controlled Type II diabetes, leukocytosis and elevated ESR, this 
raised concerns for malignant otitis externa, although there was 
no granulation tissue on exam by ENT. This was further evaluated 
with CT, which showed soft tissue involvement and inflammation 
but no bony involvement, and also raised question of possible 
mass which may have represented inflammation from her current 
infection. Pt was treated for pseudomonas coverage with 
cefepime, PO cipro and cipro ear drops.  Pt's wound culture then 
grew group A strep and she was narrowed to ceftriaxone per 
Infectious Disease recommendations.  Both ENT and Infectious 
Disease consultants did not feel the patients presentation 
represented malignant otitis externa given her physical exam and 
culture data. MRI was considered as inpatient for further 
evaluation of questionable mass seen on CT, but patient was 
clinically improved with no pain or drainage, and the decision 
was made to follow up as outpatient with ENT in 1 week. She was 
discharged on 4 days Augmentin to complete antibiotic course as 
well as cipro ear drops.

#DM: Pt was hyperglycemic >500 upon arrival with concern that 
she might not have been taking all of her medication at home. 
Given her infections, the goal was for tight glucose control. 
Her home glipizide, liraglutide were discontinued and she was 
started on sliding scale standing insulin (which she also 
self-administers at home) and Glargine (on Levemir at home), 
with input from ___. With this regimen, the pt's blood 
glucose decreased to 100s-200s. On discharge, pt will resume her 
levemir pen and humalog, with adjustments to sliding scale. 
Family has been provided with copy of sliding scale regimen and 
the pt is already trained to administer insulin at home via pen 
mechanism. 
  
#UTI: Pt presented with reports of urinary incontinence and 
dysuria and her UA was grossly positive. Urine culures grew E. 
coli. On discharge, patient reports some ongoing burning on 
urination, but no other urinary symptoms and she is afebrile. 
She will be covered with Augmentin to finish course.
 
___: On admission, had rise in Creatinine to 1.6 from baseline 
(1.3-1.5). This resolved to baseline with fluids and reached 1.1 
on discharge day, suggesting hypovolemia likely from 
dehydration. Pt's lasix and losartan were held

CHRONIC MEDICAL ISSUES:

#HLD:  Pt was continued on home atorvastatin
  
#GERD:  Pt was continued home ranitidine, omeprazole  

#Depression/anxiety:  Pt was continued home paroxetine, 
buspirone  

#HTN:  Pt was continued home amlodipine and propanolol. 
Losartan-HCTZ and lasix were held given ___, however creatinine 
improved by discharge day, thus losartan-HCTZ was resumed as 
outpatient. Given her decreased PO intake and lack of volume 
overload, her lasix was held and can be restarted as an 
outpatient.

TRANSITIONAL ISSUES
[] Complete 4 more days of PO augmentin (last day ___
[] Pt to follow up with ENT
[] Pt to continue cipro ear drops until she is seen by ENT
[] Pt's CT temporal bone showed questionable mass. She will 
follow up with ENT regarding if further imaging with outpatient 
MRI is necessary
[] Pt to follow up in ___ given her poorly 
controlled diabetes
[] Pt discharged on 33 units Levamir at night and humalog 
sliding scale
[] Pt noted to be dehydrated with ___ on admission. Lasix 20 mg 
held on discharge and to be restarted as needed by PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral daily 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP HS 
3. BusPIRone 10 mg PO TID 
4. Propranolol 20 mg PO BID 
5. Amlodipine 10 mg PO DAILY 
6. Estrogens Conjugated 1 gm VG DAILY 
7. Ranitidine 150 mg PO DAILY 
8. Atorvastatin 20 mg PO HS 
9. liraglutide 0.6 mg/0.1 mL (18 mg/3 mL) subcutaneous daily 
10. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QAC 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Furosemide 20 mg PO DAILY 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Omeprazole 40 mg PO DAILY 
15. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
16. Paroxetine 40 mg PO DAILY 
17. Cyanocobalamin 1000 mcg PO DAILY 
18. GlipiZIDE XL 10 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 20 mg PO HS 
3. BusPIRone 10 mg PO TID 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Propranolol 20 mg PO BID 
9. Ranitidine 150 mg PO DAILY 
10. Ciprofloxacin 0.3% Ophth Soln 3 DROP RIGHT EAR TID 
RX *ofloxacin 0.3 % 3 drops ear three times per day Disp #*1 
Bottle Refills:*1
11. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral BID 
12. Clobetasol Propionate 0.05% Ointment 1 Appl TP HS 
13. Estrogens Conjugated 1 gm VG DAILY 
14. Omeprazole 40 mg PO DAILY 
15. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 4 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every 12 hours Disp #*8 Tablet Refills:*0
16. Levemir Flexpen (insulin detemir) 100 unit/mL (3 mL) 
subcutaneous daily 
33 units daily 
RX *insulin detemir [Levemir] 100 unit/mL 33 units SC daily Disp 
#*10 Vial Refills:*0
17. losartan-hydrochlorothiazide 100-25 mg oral daily 
18. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QAC 
RX *insulin lispro [Humalog KwikPen] 100 unit/mL per sliding 
scale with meals Disp #*15 Syringe Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. acute otitis externa

Secondary:
2. Urinary tract infection
3. acute kidney injury, likely due to hypovolemia

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for right ear pain and drainage. You 
were seen by the Ear, Nose, and Throat doctor and the Infectious 
___ doctors to ___ up with a plan. You were treated with 
antibiotics for an infection of your external ear canal.

During this hospitalization you were also seen by the diabetes 
doctors who ___ your doses of insulin and you were treated 
for a bladder infection.

Sincerely,
Your team at ___
 
Followup Instructions:
___